US07019104B1
83.3 g (0.5 mol) of cinnamic acid chloride and 200 mL of methyl ethyl ketone were placed in a reaction vessel. 62.5 g (0.5 mol) of 2-bromoethanol and 50 g of pyridine were added dropwise in the reaction vessel. The solution was refluxed with stirring for 2 hours under a nitrogen atmosphere and then concentrated. 100 mL of water was added to the concentrated solution. After extraction with chloroform, dehydration with anhydrous sodium sulfate, concentration, and drying, 121 g of 2-bromoethyl cinnamate was obtained.

reactant | cinnamic acid chloride | 0.5 mol, 83.3 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | methyl ethyl ketone | 200 mL | C(C)C(=O)C | C4H8O
reactant | 2-bromoethanol | 0.5 mol, 62.5 g | BrCCO | C2H5BrO
solvent | pyridine | 50 g | N1=CC=CC=C1 | C5H5N
product | 2-bromoethyl cinnamate | 121 g | C(C=CC1=CC=CC=C1)(=O)OCCBr | C11H11BrO2
